US07084139B2
1-[(2S)-2-((3S)-3-{[(6-Chloro-2-naphthyl)sulfonyl]amino}-2-oxopyrrolidin-1-yl)propanoyl]piperidine-2-carboxylic acid
To a solution of (2S)-2-((3S)-3-{[(6-chloro-2-naphthyl)sulfonyl]amino}-2-oxopyrrolidin-1-yl)propanoic acid (0.025 g) in DCM (10 ml) were added 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (0.036 g), HOBT (0.026 g) and triethylamine (0.026 ml) and the mixture was stirred at room temperature for 30 min. Ethyl pipecolinate (0.030 g) was added and the resultant mixture stirred at room temperature for 16 h. The mixture was partitioned between DCM and water. The aqueous layer was re-extracted with DCM and the combined, dried (over magnesium sulphate) organic extracts were concentrated under reduced pressure. The residue was then dissolved in a mixture of THF (1 ml) and water (1 ml), treated with lithium hydroxide (0.005 g) and stirred at room temperature for 18 h. The reaction mixture was acidified to pH5 using hydrochloric acid (2N) and concentrated under reduced pressure. The residue was purified using SPE (aminopropyl stationary phase, washed with methanol and eluted with 10% hydrochloric acid in methanol) to give the title compound (0.007 g) as white solid.

reactant | (2S)-2-((3S)-3-{[(6-chloro-2-naphthyl)sulfonyl]amino}-2-oxopyrrolidin-1-yl)propanoic acid | 0.025 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N[C@@H]1C(N(CC1)[C@H](C(=O)O)C)=O | C17H17ClN2O5S
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.036 g | Cl.CN(CCCN=C=NCC)C
reactant | HOBT | 0.026 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Ethyl pipecolinate | 0.030 g | N1C(C(=O)OCC)CCCC1 | C8H15NO2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 0.026 ml | C(C)N(CC)CC | C6H15N
product | 1-[(2S)-2-((3S)-3-{[(6-Chloro-2-naphthyl)sulfonyl]amino}-2-oxopyrrolidin-1-yl)propanoyl]piperidine-2-carboxylic acid | 0.007 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N[C@@H]1C(N(CC1)[C@H](C(=O)N1C(CCCC1)C(=O)O)C)=O | C23H26ClN3O6S
